US04200587
After 15 g of 2-[p-(p-trifluoromethylphenoxy)phenoxy]-propionic acid are suspended in 20 ml of methylene chloride, 3.5 g of acetone oxime are added at room temperature. 9.8 g of dicyclohexylcarbodiimide, in 10 ml of methylene chloride, are then added dropwise over a period of 10 minutes as the temperature increases to about 40° C. The reaction mixture is then stirred at room temperature for 2 hours and filtered. The filtrate is evaporated to dryness on a rotary evaporator to yield acetone O-[2-[p-(p-trifluoromethylphenoxy)phenoxy]propionyl]-oxime, nD20 : 1.5212.

reactant | 2-[p-(p-trifluoromethylphenoxy)phenoxy]-propionic acid | 15 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O4
reactant | acetone oxime | 3.5 g | CC(C)=NO | C3H7NO
reactant | dicyclohexylcarbodiimide | 9.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | acetone O-[2-[p-(p-trifluoromethylphenoxy)phenoxy]propionyl]-oxime | FC(C1=CC=C(OC2=CC=C(OC(C(=O)ON=C(C)C)C)C=C2)C=C1)(F)F | C19H18F3NO4
